US07018988B2
Intermediate 4: 1-tert-butyl 2-methyl (2S)-4methylene-1,2-pyrrolidinedicarboxylate
Methyltriphenylphosphonium bromide (22 g, 61.6 mmol) was added to a solution of potas-sium tert-butoxide (6.5 g, 57.6 mmol) in anhydrous diethyl ether (450 ml) at 0° C. under nitrogen and the resulting bright yellow mixture stirred for 30 minutes. A solution of 1-tert-butyl 2-methyl (2S)-4-oxo-1,2-pyrrolidinedicarboxylate (10 g, 41.1 mmol in 150 ml anhydrous diethyl ether) was added slowly to the reaction mixture, which was then warmed at 35° C. for 3 h. Saturated aqueous ammonium chloride solution (0.5 ml) was then added. The organic layer was removed, and the aqueous washed with diethyl ether (3×5 ml). The combined organic layers were dried with brine and magnesium sulfate before filtering and removal of solvent. Silica gel chromatography, eluting with 15% ethyl acetate in hexanes gave the desired pro-duct 6.9 g (70% yield) as a off-white wax.

reactant | potas-sium tert-butoxide | 57.6 mmol, 6.5 g | CC(C)([O-])C.[K+]
reactant | 1-tert-butyl 2-methyl (2S)-4-oxo-1,2-pyrrolidinedicarboxylate | 41.1 mmol, 150 ml, 10 g | O=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C11H17NO5
reactant | ammonium chloride | 0.5 ml | [Cl-].[NH4+]
catalyst | Methyltriphenylphosphonium bromide | 61.6 mmol, 22 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | diethyl ether | 450 ml | C(C)OCC | C4H10O
product | 1-tert-butyl 2-methyl (2S)-4methylene-1,2-pyrrolidinedicarboxylate | 70% yield | C=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C12H19NO4
